US05143643
Into 345 ml of ethanol, 43.4 g of 95%-sodium ethoxide was added, and under stirring, 114 g of diethyl malonate was added dropwise at 33°-36° C. in 55 min. After further 30 min. of stirring, 114 g of the above 2-propoxypropylmethane sulfonate was added at 34°-38° C. in 1 hour. The mixture was heated and refluxed at 80°-82° C. for 18 hours. After the completion, the product was poured in cold water and extracted with benzene, followed by washing with water, removed by distillation of benzene, and vacuum distillation to obtain 100 g of ethyl 4-propoxy-2-ethoxycarbonylvalerate (75°-115° C./5 mmHg).

reactant | ethanol | 345 ml | C(C)O | C2H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 114 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-propoxypropylmethane sulfonate | 114 g | C(CC)OC(CCS(=O)(=O)[O-])C
solvent | water | O | H2O
product | ethyl 4-propoxy-2-ethoxycarbonylvalerate | 100 g | C(CC)OC(CC(C(=O)OCC)C(=O)OCC)C | C13H24O5
